US07273878B2
To 30 ml of ethanol was dissolved 2.0 g (10 mmol) of methyl benzo[1,2,5]thiadiazole-5-carboxylate, followed by the addition of 3.3 g of a 25% aqueous solution of sodium hydroxide and stirring at room temperature for 3 hours. To the reaction liquid was added 50 ml of water and a dilute hydrochloric acid to make pH of 2. Crystal precipitated was filtered off and dried under reduced pressure to obtain 1.7 g (yield: 92%) of benzo[1,2, 5]thiadiazole-5-carboxylic acid. In a separate reactor, 0.50 g (2.2 mmol) of 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate and 0.43 g (2.4 mmol) of benzo[1,2,5]thiadiazole-5-carboxylic acid were dissolved in 7 ml of N,N-dimethylformamide, followed by the addition of 0.37 g (4.4 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with ethyl acetate. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:19) to obtain 0.44 g (yield: 64%) of 6,6-difluoro-5-methyl-5-hexenyl benzo[1,2,5]thiadiazole-5-carboxylate.

reactant | 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate | 2.2 mmol, 0.50 g | CS(=O)(=O)OCCCCC(=C(F)F)C | C8H14F2O3S
reactant | benzo[1,2,5]thiadiazole-5-carboxylic acid | 2.4 mmol, 0.43 g | N1=C2C(=NS1)C=C(C=C2)C(=O)O | C7H4N2O2S
reactant | sodium hydrogencarbonate | 4.4 mmol, 0.37 g | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6,6-difluoro-5-methyl-5-hexenyl benzo[1,2,5]thiadiazole-5-carboxylate | 0.44 g, yield: 64% | N1=C2C(=NS1)C=C(C=C2)C(=O)OCCCCC(=C(F)F)C | C14H14F2N2O2S
